Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Streptomycin / Citric Acid / 
Atenolol / Torsemide
 
Attending: ___.
 
Chief Complaint:
Mechanical fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is an ___ year old man with a PMH significant for 
CAD, CHF, AFIB, and chronic balance issues who states that he 
was going down the stairs at his friends house and tripped and 
fell. He denies feeling light-headed, having palpitations, 
losing consciousness or feeling his legs give way, and that he 
simply "tripped." He did not lose control of his bladder or 
bowels, and beleives that he hit his back and his head on the 
way down. Two neighbors tried to help them up, but couldnt 
because they "weren't very strong."
.
They called EMS who brought him to the ED. In the ED he was 
evaluated for injuries and underwent CT of the C-spine as well 
as plain films of the T-spine, and L-spine, and a CXR. Notably 
found was a T11 fracture. He was also found to be hyponatremic 
to 129 then 126 on repeat labs. He was found to be in acute 
renal faillure and admitted to medicine.
.
Of note he has been recently aggressively diuresed, which has 
been dialed back, but his daugther notes he has lost "a lot" of 
weight.
.
Currently, he is hungry and thirsty and complaining only of calf 
cramps, which would go away if "he could just stand up"
.
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria. 
 
Past Medical History:
-CAD s/p bare metal stent x2 in ___
-Hypertension  
-Ischemic cardiomyopathy Systolic dysfunction (EF 35%-40% ___  

-Dual chamber pacemaker 
-h/o VF s/p ICD for secondary prevention  
-Chronic atrial fibrillation  
-Rectal cancer s/p neoadjuvant chemotherapy, resection and 
adjuvant chemotherapy for positive LNs found at surgery  
-BPH  
-h/o stroke in ___ with residual R hand dysthesia  
-Cervical spondylosis  
-Sleep apnea, only uses CPAP intermittently  
-h/o gastritis ___ year ago
-insomnia, has been using chamomile tea and melatonin with 
minimal relief
 
Social History:
___
Family History:
Father died of an MI in his ___, Mother died of a PE in her ___, 
twin sister died of colitis age ___, no family h/o colon, 
breast, uterine, or ovarian CA  

 
Physical Exam:
Vitals - T:97.8 / BP:120/60 / HR:71 / RR:___ sat:97%
.
GENERAL: Chronicly ill appearring elderly gentleman in NAD, 
sitting comfortably in bedside chair
HEENT: Moist MM, PERRL, EOMI
CHEST: Sparse crackles, good air movement, NO SPINAL TENDERNESS
CV: s1s2, holosystolic murmur heard best at the axilla
ABD: Soft, NT, ND, clean intact ostomy site noted
EXT: Dry, healing skin tear over right shin, no edema
NEURO: CN II-XII intact
 
Pertinent Results:
Admitting Labs:
___ 01:40PM BLOOD WBC-4.4 RBC-4.05* Hgb-10.3* Hct-34.0* 
MCV-84 MCH-25.5* MCHC-30.4* RDW-20.8* Plt ___
___ 01:40PM BLOOD Neuts-63 Bands-1 Lymphs-10* Monos-22* 
Eos-0 Baso-0 Atyps-1* Metas-3* Myelos-0
___ 01:40PM BLOOD Hypochr-1+ Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-OCCASIONAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL Schisto-OCCASIONAL Burr-1+ Tear Dr-OCCASIONAL
___ 01:40PM BLOOD ___
___ 01:40PM BLOOD UreaN-57* Creat-2.0* Na-129* K-5.3* 
Cl-91* HCO3-23 AnGap-20
___ 01:40PM BLOOD ALT-36 AST-47* CK(CPK)-93 AlkPhos-98 
TotBili-1.9*
___ 01:40PM BLOOD CK-MB-5 cTropnT-0.03*
___ 04:15PM BLOOD CK-MB-5 cTropnT-0.02*
___ 04:15PM BLOOD cTropnT-0.02*
___ 02:10AM BLOOD CK-MB-7 cTropnT-0.01
___ 05:15AM BLOOD CK-MB-7 cTropnT-0.01
___ 01:40PM BLOOD Calcium-9.4
___ 01:40PM BLOOD Hapto-121

Other Studies:
___ 4:15 pm URINE     Site: CLEAN CATCH

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 04:15PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 04:15PM URINE Hours-RANDOM UreaN-456 Creat-58 Na-37 
K-61 Cl-45
___ 04:15PM URINE Osmolal-368
.
** Head CT (___)
FINDINGS: There is no acute hemorrhage, edema, mass effect, or 
infarct. The
ventricles and sulci are enlarged, consistent with age-related 
atrophy.
Chronic infarcts are noted in the right thalamus and left 
cerebellum.
Additional supratentorial and periventricular white matter 
hypodensities are consistent with small vessel ischemic disease. 
Calcifications are noted in the bilateral cavernous carotid and 
vertebral arteries.
 
Again seen is mild mucosal thickening and a mucous retention 
cyst in the left maxillary sinus, as well as some thickening in 
the right ethmoid sinus. The remaining paranasal sinuses and 
mastoid air cells are clear. Diffuse osseous demineralization is 
present. There are no fractures.
 
IMPRESSION: No acute intracranial process. Chronic atrophy and 
old infarcts.
.
CT of C-Spine (___)
FINDINGS: There are no acute fractures. There is multilevel 
degenerative
disease of the cervical spine with osteophyte formation, disc 
space narrowing, subchondral cystic changes, and vertebral 
compression deformities at multiple levels, most marked from 
C5-C7. Multiple posterior disc-osteophyte complexes are present, 
without significant impingement of the thecal sac outline. There 
is moderate-to-severe facet and uncovertebral joint hypertrophy 
at virtually all levels, most severe at C3 and C4 on the right, 
with significant foraminal stenosis.
 
Note is made of partial fusion of the right first and second 
ribs.
 
The thyroid gland is heterogeneous, with a 5-mm hypodense nodule 
in the left lobe (3:76).
 
Left subclavian venous catheter courses in expected position.
 
IMPRESSION: No fractures. Cervical spine DJD.
.
Xray L spine PA/LA (___)
IMPRESSION: No evidence of acute fracture or malalignment. 
Multilevel
degenerative changes.
.
Xray T spine (___)
IMPRESSION: Extensive degenerative disease. There is a superior 
endplate
compression of likely T11. Morphology suggests chronicity and no 
definite
posterior retropulsion is noted. If clinical symptoms are 
referable to this
region, consider cross-sectional exam for more sensitive 
evaluation.
.
Discharge Labs:
___ 05:15AM BLOOD WBC-5.0 RBC-3.83* Hgb-9.6* Hct-30.5* 
MCV-80* MCH-25.1* MCHC-31.6 RDW-21.2* Plt ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD ___ PTT-37.0* ___
___ 02:35PM BLOOD Na-126* K-5.0 Cl-93*
___ 05:15AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.___. Mechanical Fall:
Mr. ___ was admitted after a mechanical fall while going 
down the stairs. A CT scan of his head and C-spine neck, as well 
as xrays of the T and L spine were obtained. The T spine xray 
showed and old fracture at T11. The orthopedic spine service 
consulted on the patient and did not feel as if further workup 
was needed unless he developed severely worsening symptoms 
related to his spine. While in the hospital any acute back pain 
was controlled with oxycodone and valium. 
. 
2. Acute Renal failure with Hyponatremia
This believed to be due to dehydration ___ to over diuresis (pt 
was on furosemide and spironolactone as an outpt and reported 
significant recent weight loss). Pt was given IV fluids and 
diuretics were stopped in the hospital. He quickly felt better 
and his symptoms of unsteadiness and fatigue improved. Sodium 
levels stayed mildly low at 126 but creatinine quickly improved. 
Patient was advised to hold his diuretics for at least 24hrs 
after discharge.

3. EKG changes:
Pt had a very difficult EKG to interpret ___ to being paced and 
having some old bundle branch block abnormalities. Cardiology 
had been contacted while patient was in ER and indicated no 
intervention. Pt was ruled out for ACS with 3 sets of cardiac 
markers and placed on telemetry until this was done. Their was a 
mild elevation in initial troponin value but it did not increase 
and was attributed to the acute renal insufficiency. 

On discharge patient was instructed to hold his two diuretics 
for 24hrs and to monitor his dry weights closely and daily.
 
Medications on Admission:
FUROSEMIDE - 60qAM, 40qPM
LISINOPRIL - 2.5 mg Tablet once a day
METOPROLOL SUCCINATE [TOPROL XL] - 25 daily
OMEPRAZOLE - 20 mg Capsule, 1 Capsule(s) by mouth daily
TEDS STOCKINGS - 1 PAIR - WEAR DAILY TO PREVENT ANKLE SWELLING
WARFARIN - ___ MWF. 1 TTHSASU
Spironalactone 25mg daily
KCL 20meq daily.
 
Discharge Medications:
1. Lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Warfarin 2 mg Tablet Sig: One (1) Tablet PO 3X/WEEK 
(___).  
5. Warfarin 1 mg Tablet Sig: One (1) Tablet PO 4X/WEEK 
(___).  
6. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO once a 
day: hold for 24 hours after hospital discharge.     
.  
7. Lasix 40 mg Tablet Sig: One (1) Tablet PO twice a day: hold 
for 24 hours after hospital discharge.  
8. Outpatient Lab Work
Please check labs including patients Na and renal function 
within ___ days of being discharged from the hospital. Please 
send results to patient's PCP.
Name: ___.
Phone: ___
Fax: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Mechanical Fall
Acute Renal Failure
Hyponatermia

Secondary:
CAD 
Hypertension  
systolic CHF  
Chronic atrial fibrillation  
BPH  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  You were admitted after a fall and had CT-scan of 
your head and neck.  You also had x-rays of your back.  The 
x-ray of your back showed an old fracture at T11.  You were seen 
by the spine specialist and did not feel there was further 
workup needed unless you developed worsening pain, numbness, 
tingling or other neurologic symptoms.

You were also found to be dehydrated likely secondary to your 
diuretics.  We gave you some IV fluids and held your water 
pills.  You felt better and symptoms improved.  You should hold 
your lasix & spironolactone for 24hrs and then restart them.  
You need to follow-up with your PCP and cardiologist.  You will 
also have your sodium and renal function checked via lab draw 
tomorrow and have the labs faxed to your PCP, ___.

The following changes were made to you medications:
1) Please hold your lasix and spironolactone for 24 hours.  You 
will have labs drawn tomorrow in the morning. Please follow-up 
with Dr. ___ your lab work prior to restarting 
tomorrow.  Call his office and ask whether your sodium level is 
better and whether you can restart your lasix 40mg twice a day. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___